US04113729
(-)-3-Phenoxy-N-[2-(2-furyl)ethyl]morphinan
To the above base, 1.2 g. (0.003 mol) in ether, a solution of 0.3 g. of oxalic acid in ether was added. The crude oxalate was recrystallized twice from ethanol to give 1.0 g. (68%) of (-)-3-phenoxy-N-[2-(2-furyl)ethyl]morphinan oxalate, m.p. 195°-197° (d), [α]D25 = -64.52° (c 1.03, MeOH).

reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
reactant | (-)-3-phenoxy-N-[2-(2-furyl)ethyl]morphinan oxalate | C(C(=O)O)(=O)O.O(C1=CC=CC=C1)C=1C=CC=2C[C@@H]3[C@@H]4CCCC[C@@]4(C2C1)CCN3CCC=3OC=CC3
reactant | MeOH | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | (-)-3-Phenoxy-N-[2-(2-furyl)ethyl]morphinan | O(C1=CC=CC=C1)C=1C=CC=2C[C@@H]3[C@@H]4CCCC[C@@]4(C2C1)CCN3CCC=3OC=CC3 | C28H31NO2
